US04122178
A mixture of 6.16 g of 1-chloro-4-phenyl-4-phenylsulfonylbutane, 4.25 g of 1-phenylpiperazine, 3.5 of sodium carbonate and 80 ml of dimethylformamide was refluxed with stirring for 23 hours. After cooling, water was added to the reaction mixture. The resulting mixture was extracted with chloroform, and the extract was washed with a 10% aqueous hydrochloric acid solution and with an aqueous potassium carbonate solution. To the organic layer was added 1.8 g of oxalic acid. The resulting oxalate was purified with 60% ethanol to give 6 g of 1-(4-phenyl-4-phenylsulfonylbutyl)-4-phenylpiperazine oxalate as white crystals, melting at 179°-181° C with decomposition.

reactant | 1-chloro-4-phenyl-4-phenylsulfonylbutane | 6.16 g | ClCCCC(S(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C16H17ClO2S
reactant | 1-phenylpiperazine | 4.25 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(4-phenyl-4-phenylsulfonylbutyl)-4-phenylpiperazine oxalate | 6 g | C(C(=O)O)(=O)O.C1(=CC=CC=C1)C(CCCN1CCN(CC1)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | InChI=1S/C26H30N2O2S.C2H2O4/c29-31(30,25-15-8-3-9-16-25)26(23-11-4-1-5-12-23)17-10-18-27-19-21-28(22-20-27)24-13-6-2-7-14-24;3-1(4)2(5)6/h1-9,11-16,26H,10,17-22H2;(H,3,4)(H,5,6)
